US07521451B2
3,4-dimethoxybenzoic-acid (5.0 g, 27 mmol) was added to Formalin (36 ml) saturated with hydrogen chloride gas, and stirred with bubbling hydrogen chloride gas at 65° C. for 2 hrs. The reaction solution was concentrated under reduced pressure, and to the residue was added water (16 ml), followed by neutralizing with dilute aqueous ammonia (concentrated aqueous ammonia:water=2:3). The precipitated crystals were collected by filtration, washed with water, followed by drying to give 4.0 g of 4,5-dimethoxyphthalide.

reactant | 3,4-dimethoxybenzoic-acid | 27 mmol, 5.0 g | COC=1C=C(C(=O)O)C=CC1OC | C9H10O4
reactant | Formalin | 36 ml | C=O | CH2O
reactant | hydrogen chloride | Cl | ClH
product | 4,5-dimethoxyphthalide | 4.0 g | COC1=C2COC(=O)C2=CC=C1OC | C10H10O4
